US09290517B2
Step A: 4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-5-yl]-benzonitrile
LiOH (0.43 ml, 1.290 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (43.2 mg, 0.053 mmol) were added to a stirred solution of (3R,3aR,6R,6aR)-6-[6-chloro-5-iodo-1-(2-trimethylsilylethoxy-methyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol (284.9 mg, 0.514 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile (143.1 mg, 0.625 mmol) in dioxane (4.2 ml) and water (0.60 ml). The reaction mixture was degassed (3×) and placed under nitrogen before being heated to 80° C. for 1.5 hours. Then the reaction mixture was cooled and partitioned between EtOAc (50 ml) and water (50 mL). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×50 ml), dried over Na2SO4′ filtered, and evaporated under reduced pressure to give an amber residue. Flash chromatography of the residue utilizing a 12 g silica RediSep Rf® column and employing a 0-60% EtOAc/hexane gradient followed by 60% EtOAc/hexane afforded the title compound as a yellow residue. LC-MS: calculated for C25H29ClN4O5Si 528.16 observed m/e: 529.22 (M+H)+ (Rt 2.34/4 min).

reactant | LiOH | 1.290 mmol, 0.43 ml | [Li+].[OH-]
reactant | (3R,3aR,6R,6aR)-6-[6-chloro-5-iodo-1-(2-trimethylsilylethoxy-methyl)imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-ol | 0.514 mmol, 284.9 mg | ClC=1C=C2C(=NC1I)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1O | C18H25ClIN3O5Si
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzonitrile | 0.625 mmol, 143.1 mg | CC1(OB(OC1(C)C)C1=CC=C(C#N)C=C1)C | C13H16BNO2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | dioxane | 4.2 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.60 ml | O | H2O
product | 4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1-(2-trimethylsilylethoxymethyl)imidazo[4,5-b]pyridin-5-yl]-benzonitrile | O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C#N)C=C1)N2)COCC[Si](C)(C)C | C25H29ClN4O5Si
